US07902373B2
6-(3,5-Difluorophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide
6-(3,5-Difluoro-phenyl)-nicotinic acid (50 mg, 0.21 mmol), 1-(2,2,2-trifluoroethyl)piperidin-4-amine hydrochloride (48 mg, 0.22 mmol) N,N-diisopropylethylamine (0.296 mL, 1.69 mmol), HATU (101 mg, 0.26 mmol) in acetonitrile (5 mL) was shaken at room temperature for 12 h. The reaction mixture was concentrated and the crude reaction mixture purified by automated reversed phase chromatography to provide 6 mg (7%) of the title compound. 1H NMR (400 MHz, DMSO-d6) □ ppm 9.08 (1H, s), 8.47 (1H, d, J=7.0 Hz), 8.30 (1H, dd, J=8.4, 2.2 Hz), 8.19 (1H, d, J=8.1 Hz), 7.88 (2H, d, J=7.0 Hz), 7.36 (1H, t, J=10.1 Hz), 3.82 (1H, br. s.), 3.11-3.23 (2H, m), 2.95 (2H, d, J=11.0 Hz), 2.42-2.48 (2H, m), 1.76-1.87 (2H, m), 1.56-1.66 (2H, m).

reactant | 6-(3,5-Difluoro-phenyl)-nicotinic acid | 0.21 mmol, 50 mg | FC=1C=C(C=C(C1)F)C1=NC=C(C(=O)O)C=C1 | C12H7F2NO2
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine hydrochloride | 0.22 mmol, 0.296 mL, 48 mg | Cl.FC(CN1CCC(CC1)N)(F)F
reactant | HATU | 0.26 mmol, 101 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-(3,5-Difluorophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide | 6 mg, 7% | FC=1C=C(C=C(C1)F)C1=NC=C(C(=O)NC2CCN(CC2)CC(F)(F)F)C=C1 | C19H18F5N3O
